US05821246
Using an analogous procedure to that described in Example 1, 4-amino-2-chlorophenyl 2-pyridyl ketone was reacted with 4-chloro-6,7-dimethoxyquinazoline hydrochloride to give 4-[3-chloro-4-(2-pyridylcarbonyl)anilino]-6,7-dimethoxyquinazoline dihydrochloride salt in 45% yield, m.p. 255°-258° C.;

reactant | 4-amino-2-chlorophenyl 2-pyridyl ketone | N1=C(C=CC=C1)C(=O)C1=C(C=C(C=C1)N)Cl | C12H9ClN2O
reactant | 4-chloro-6,7-dimethoxyquinazoline hydrochloride | Cl.ClC1=NC=NC2=CC(=C(C=C12)OC)OC
product | 4-[3-chloro-4-(2-pyridylcarbonyl)anilino]-6,7-dimethoxyquinazoline dihydrochloride salt | 45% yield | Cl.Cl.ClC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=CC1C(=O)C1=NC=CC=C1 | InChI=1S/C22H17ClN4O3.2ClH/c1-29-19-10-15-18(11-20(19)30-2)25-12-26-22(15)27-13-6-7-14(16(23)9-13)21(28)17-5-3-4-8-24-17;;/h3-12H,1-2H3,(H,25,26,27);2*1H
